US06197962B1
First, 9.00 g (107 mmol) of senecialdehyde (3-methyl-2-butenal) and 8.35 g (50.0 mmol) of benzenesulfonyl cyanide were introduced to the same reaction vessel as in Example 1. Toluene (15 ml) as the solvent and butanol (1.5 ml) were added, and 0.30 g (4.85 mmol) boric acid were added. Then the mixture was heated under reflux for 3 hours while agitating at an internal temperature of 119° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of toluene that had been cooled to 5° C. or lower. Then the crystals were dried for 2 hours in vacuo to give 8.50 g of 2-benzenesulfonyl-4-methylpyridine with the following properties as colorless crystals (purity of 99%, yield of 72% based on benzenesulfonyl cyanide).

reactant | senecialdehyde | 107 mmol, 9.00 g | C(C=C(C)C)=O | C5H8O
reactant | benzenesulfonyl cyanide | 50.0 mmol, 8.35 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | boric acid | 4.85 mmol, 0.30 g | B(O)(O)O | BH3O3
solvent | butanol | 1.5 ml | C(CCC)O | C4H10O
product | 2-benzenesulfonyl-4-methylpyridine | 8.50 g, yield of 72% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=CC(=C1)C | C12H11NO2S
